US05670656
Step 1 Preparation of 3-t-butylcarbamoyloxy-tetrahydrofuran-2-one
Boron trifluoride diethyl etherate (1.38 g) was added dropwise, over a period of fifteen minutes, to a stirred solution of 3-hydroxytetrahydrofuran-2-one (10.0 g) and t-butylisocyanate (9.7 g) in dry dichloromethane (300 ml), whilst maintaining the temperature below 10° C. The mixture was stirred at room temperature for a further four hours, treated with brine and sufficient aqueous sodium bicarbonate solution to render the aqueous phase basic, then extracted several times with dichloromethane. The extracts were washed with brine, dried over magnesium sulphate and evaporated under reduced pressure to give the title compound (18.5 g, m.p. 104°-106° C.). NMR (CDCl3): δ 1.34(9H,s); 2.28(1H,m); 2.73(1H,m); 4.28(1H,dt); 4.46(1H,dt); 4.90(1H,bs); 5.31(1H,t). MS: M+ 201.

reactant | Boron trifluoride diethyl etherate | 1.38 g | B(F)(F)F.CCOCC
reactant | 3-hydroxytetrahydrofuran-2-one | 10.0 g | OC1C(OCC1)=O | C4H6O3
reactant | t-butylisocyanate | 9.7 g | C(C)(C)(C)N=C=O | C5H9NO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 3-t-butylcarbamoyloxy-tetrahydrofuran-2-one | 18.5 g | C(C)(C)(C)NC(=O)OC1C(OCC1)=O | C9H15NO4
